US05607691
To a solution of chloromethyl octyl carbonate (1.14 g, 0.005 mol) in acetone (10 ml) was added sodium iodide (2.3 g, 0.015 mol). The mixture was stirred for 3 hours, concentrated invacuo, and dissolved in dichloromethane (50 ml). This solution was washed with saturated aqueous sodium chloride, aqueous sodium thiosulfate, and saturated aqueous sodium chloride, dried (sodium sulfate) and concentrated invacuo to yield iodomethyl octyl carbonate (1.14 g).

reactant | chloromethyl octyl carbonate | 0.005 mol, 1.14 g | C(OCCl)(OCCCCCCCC)=O | C10H19ClO3
reactant | sodium iodide | 0.015 mol, 2.3 g | [I-].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | iodomethyl octyl carbonate | 1.14 g | C(OCI)(OCCCCCCCC)=O | C10H19IO3
